US05292749
Methyl (RS)-4-cyano-2-Phenylbutanoate
Lithium diisopropylamide (3.67 ml of a 1.5 molar solution in cyclohexane) was added to acetonitrile (0.26 ml) in tetrahydrofuran (10 ml) at -78° C. After 1 hour, methyl 2-phenyl-acrylate (see Preparation 22) (0.81 g) in tetrahydrofurn (10 ml) was added and the mixture was stirred for 1 hour, allowed to warm to room temperature then treated with saturated ammonium chloride solution. The resulting mixture was partitioned between ethyl acetate and water, the organic phase dried over magnesium sulphate and evaporated to give a residue which was partitioned between ether and 10% aqueous sodium carbonate. The organic layer was dried over magnesium sulphate and evaporated to leave the title compound (0.5 g, 75%) as an oil.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetonitrile | 0.26 ml | C(C)#N | C2H3N
reactant | methyl 2-phenyl-acrylate | 0.81 g | C1(=CC=CC=C1)C(C(=O)OC)=C | C10H10O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl (RS)-4-cyano-2-Phenylbutanoate | 0.5 g, 75% | C(#N)CCC(C(=O)OC)C1=CC=CC=C1 | C12H13NO2
